data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]([C:22](=[O:23])C1=C(C=CC=C1)Cl)C(C)(C2=C(C=CC=C2)Cl)O.CC[O-:10]>>[H:20][O:10]CC.CC([CH:21]=[C:22](C1=C(C=CC=C1)Cl)[O-:23])(C2=C(C=CC=C2)Cl)O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([C+:22](C=CO1)Br)Br.[Br-:10]>>[H:20][Br:10].C1=CO[C:21](=[C:22]1Br)Br 10=20;20,21=21,22
CC1=C(C(=O)N2CC[C:20](=[O+:21]CC[OH:10])C2=C1)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1=C(C(=O)N2CC[C:20]3(C2=C1)[OH+:10]CC[O:21]3)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[CH:11](=[C:10](Br)Br)[O-:12].[Br:20][Br:21]>>[Br-:21].[CH:11](=[O:12])[C:10](Br)(Br)[Br:20] 10,11=10,20;20,21=21;12=11
CC[OH+:21][C:20](C)(OCC)[O:10]CC.CC12COC(=O)C1(C(C=C2CO)O[Si](C)(C)C(C)(C)C)C.CC(C)(C)C(=O)[O-]>>CC[OH:21].CCO[C:20](=[O+:10]CC)C.CC12COC(=O)C1(C(C=C2CO)O[Si](C)(C)C(C)(C)C)C.CC(C)(C)C(=O)[O-] 10=20;20,21=21
[H:20][C:21]#CC.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC#[C-:21] 10=20;20,21=21
CC12CCC3C(C1CCC2=O)CC[C:10]4=[CH:11]C5(CCC34[CH2:20][O:21]S(=O)(=O)C)SCCS5.CC(=O)[O-]>>CC12CCC3C(C1CCC2=O)CC[C:10]45C3([CH2:20]4)CCC6([CH+:11]5)SCCS6.CS(=O)(=O)[O-:21].CC(=O)[O-] 10,11=10,20;20,21=21
C[C:20](O)([OH:10])[OH+:21]C>>C[C:20](=[OH+:10])O.C[OH:21] 10=20;20,21=21
CC[NH2:10].CC(=O)CC[CH:20]=[O:21]>>CC[NH2+:10][CH:20](CCC(=O)C)[O-:21] 10=20;20,21=21
CCC([C:10]1([NH2+:11]CCO1)O)O>>CCC([C+:10](O)OCC[NH2:11])O 10,11=11
[H:20][O+:21]=CC1=CC(=CC(=C1)C#N)OC2=C(C(=CC=C2Br)CO)F.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O>>[H:20][OH2+:10].C1=C(C(=C(C(=C1)Br)OC2=CC(=CC(=C2)C=[O:21])C#N)F)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O 10=20;20,21=21
[H:20][OH+:21]C.CC(=O)O[Si-](C)(C)(C)OC(=[O:10])C>>[H:20][O+:10]=C(C)O[Si-](C)(C)(C)OC(=O)C.C[OH:21] 10=20;20,21=21
C[CH:20]=[NH+:21]C(=O)C.C[Si](C)(C)C=[C:11]=[CH2:10]>>C[CH:20]([CH2:10][C+:11]=C[Si](C)(C)C)[NH:21]C(=O)C 10,11=10,20;20,21=21
CC[CH:20]=[N+:21](C)CC(=O)O.CC1(O[C:11](=[CH:10]C(=O)O1)[O-:12])C>>CC[CH:20]([CH:10]1C(=O)OC(O[C:11]1=[O:12])(C)C)[N:21](C)CC(=O)O 10,11=10,20;20,21=21;12=11
[CH3:20][O:21][PH+:22](Br)Br.[Br-:10]>>[CH3:20][Br:10].[O:21]=[PH:22](Br)Br 10=20;20,21=21,22
[Li:10][O+:11](C=C)[Si](C)(C)C.CCCC.C=C.[Cl-]>>[Li+:10].C[Si](C)(C)[O:11]C=C.CCCC.C=C.[Cl-] 10,11=11
[H:20][CH:21](C(C1=CC=CC=C1)O)[C:22](=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21]C(C1=CC=CC=C1)O)[O-:23] 10=20;22,23=23;20,21=21,22
[Li:20]N(C(C)C)C(C)C.CC(C)C1CC[C@]2(C3CCC45C3N[C@@H]1[C@@]2(C4CCC5)CCC(=[O:10])OC)C>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C(CC[C@]12[C@@H]3C(CC[C@]1(C4CCC5(C2CCC5)C4N3)C)C(C)C)OC 10=20
[CH:11]1=[CH:10]OC(=C1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=C(O[CH:10]([CH+:11]1)[S:20](=O)(=O)O)S(=O)(=O)O 10,11=10,20
[H:20][O+:21](C1CCN(CCC2=CC3=C(C=C12)OCO3)C(=O)C4=C(C(=CC=C4Br)OC)OC)I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]C3CCN(CCC4=CC5=C(C=C34)OCO5)C(=O)C6=C(C(=CC=C6Br)OC)OC)OC(=O)C 10=20;20,21=21
[CH2:20]=[CH:21][C:22](=[O:23])C1=CC=CC=C1.O[O-:10]>>C1=CC=C(C=C1)[C:22](=[CH:21][CH2:20][O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CCN(CC)[C:11](=[CH:10]CCC(=O)C)[O-:12]>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])N(CC)CC.[OH2:21] 10,11=10,20;20,21=21;12=11
CC[CH:20]=[OH+:21].C[CH:10]=[CH:11][OH:12]>>CC[CH:20]([CH:10](C)[CH:11]=[OH+:12])[OH:21] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21]=CO.[C-:10]#N.N>>[H:20][C:10]#N.C(=[NH:21])O.N 10=20;20,21=21
[CH3:20][O:21]S(=O)(=O)C.[SH2:10]>>[CH3:20][SH2+:10].CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH2:21][S+](C)C.C[N:10](C)C>>[H:20][N+:10](C)(C)C.C[S+](C)[CH2-:21] 10=20;20,21=21
CCC([O-])[OH+:11][K:10]>>CCC([OH:11])[O-].[K+:10] 10,11=11
[H:20][OH2+:21].C(=O)(C(F)(F)F)[O-:10].CCCC=C(C1=C(C=CC(=C1)Br)O)[O-].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3>>[H:20][O:10]C(=O)C(F)(F)F.[OH2:21].CCCC=C(C1=C(C=CC(=C1)Br)O)[O-].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3 10=20;20,21=21
CC(C)(C)OC(=O)NCCCCC([C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2)NC(=O)OCC3C4=C(C=CC=C4)C5=CC=CC=C35.COC1=CC=C(C=C1)COC(=O)C(CC2=CNC3=CC=CC=C32)[NH2:10]>>CC(C)(C)OC(=O)NCCCCC([C:20]([NH2+:10]C(CC1=CNC2=CC=CC=C21)C(=O)OCC3=CC=C(C=C3)OC)([O-:21])OC(=NC4CCCCC4)NC5CCCCC5)NC(=O)OCC6C7=C(C=CC=C7)C8=CC=CC=C68 10=20;20,21=21
C[CH:20]=[CH:21][CH:22](CC(C)(C)O)[N+:23](C)(C(C)C1=CC=CC=C1)[O-:10].C1=CC(=CC(=C1)C(=O)O)Cl>>C[CH:20]([CH:21]=[CH:22]CC(C)(C)O)[O:10][N:23](C)C(C)C1=CC=CC=C1.C1=CC(=CC(=C1)C(=O)O)Cl 10=20;22,23=23;20,21=21,22
C[C:20](O)([O-:10])[O:21]C(=O)C=C>>C[C:20](=[O:10])O.C=CC(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C)C(C)(C)O.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[CH:21]C(C)(C)O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(CC(=O)O)O.[OH2:10]>>C(C(=O)O)C(=[O:21])O.[H:20][OH2+:10] 10=20;20,21=21
C[CH:20]([Cl:10])[Cl:21]>>C[CH:20]=[Cl+:10].[Cl-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[O:11][Si-:10](C)(C)(C)F>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[O-:11].C[Si:10](C)(C)F 10,11=11
